US09023851B2
(4-Morpholin-4-yl-phenyl)-[8-(2-phenoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyrazin-2-yl]-amine (“C289”)
To a solution of (8-chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-yl-(4-morpholin-4-yl-phenyl)-amine (0.15 g, 0.45 mmol, 1 eq) in a mixture of ethanol:toluene (1:4) (10 ml) is taken in a dry pressure tube, palladium acetate (0.01 g, 0.045 mmol, 0.1 eq), anhydrous potassium carbonate (0.125 g, 0.90 mmol, 2 eq), 2-dicyclo-hexylphosphino-2′,6′-dimethoxybiphenyl, S-Phos (0.027 g, 0.06 mmol, 0.13 eq) and 2-phenoxyphenylboronic acid (0.19 g, 0.90 mmol, 2 eq) are added and the reaction mixture is degasified with nitrogen. The reaction mixture is heated to 120° C. for 1 hour. The reaction mixture is concentrated and the residue is taken in 25% methanol in dichloromethane (50 ml) and filtered through celite to remove the inorganics and the filtrate is concentrated and purified by silica column using (230-400) mesh to get the product as pale yellow solid.

reactant | 8-chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-yl-(4-morpholin-4-yl-phenyl)-amine | 0.45 mmol, 0.15 g, 1 eq | ClC=1C=2N(C=CN1)N=C(N2)NC2=CC=C(C=C2)N2CCOCC2 | C15H15ClN6O
reactant | potassium carbonate | 0.90 mmol, 0.125 g, 2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dicyclo-hexylphosphino-2′,6′-dimethoxybiphenyl | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | S-Phos | 0.06 mmol, 0.027 g, 0.13 eq | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | 2-phenoxyphenylboronic acid | 0.90 mmol, 0.19 g, 2 eq | O(C1=CC=CC=C1)C1=C(C=CC=C1)B(O)O | C12H11BO3
solvent | ethanol toluene | 10 ml | C(C)O.C1(=CC=CC=C1)C
catalyst | palladium acetate | 0.045 mmol, 0.01 g, 0.1 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (4-Morpholin-4-yl-phenyl)-[8-(2-phenoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyrazin-2-yl]-amine | N1(CCOCC1)C1=CC=C(C=C1)NC1=NN2C(C(=NC=C2)C2=C(C=CC=C2)OC2=CC=CC=C2)=N1 | C27H24N6O2
